US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and phenyl methanol to give (1-benzyloxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 317(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | phenyl methanol | C1(=CC=CC=C1)CO | C7H8O
product | (1-benzyloxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | C(C1=CC=CC=C1)OC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C19H16N4O
